US05223506
Using the procedure of Example 1, 5-methoxy-6-methoxymethoxyindan-1-one (1000 mg, 4.5 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (1144 mg, 4.5 mmol) to yields 7-Methoxy-8-methoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (400 mg, 25% of theory).

reactant | 5-methoxy-6-methoxymethoxyindan-1-one | 4.5 mmol, 1000 mg | COC=1C=C2CCC(C2=CC1OCOC)=O | C12H14O4
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 4.5 mmol, 1144 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7-Methoxy-8-methoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 400 mg, 25% | COC=1C(=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OCOC | C20H17NO5
